US05856325
1,2,4-Benzotriazine-3-amine 1-oxide
A mixture of 10 g 2-nitroaniline and 20 g cyanamide is heated for 5 min to 100° C., cooled, mixed with 25 ml conc. hydrochloric acid and carefully heated to 70° C. After subsidence of the vigorous reaction, one cools to room temp., adds dropwise thereto 50 ml semiconce. caustic soda lye, heats for 30 min to 100° C., cools, filters and washes the precipitate with hot glacial acetic acid. There remain 9.1 g of title compound (78% of theory) of the m.p. 272°-274° C.

reactant | 2-nitroaniline | 10 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | cyanamide | 20 g | N#CN | CH2N2
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | caustic soda | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2,4-Benzotriazine-3-amine 1-oxide | 9.1 g, 78% | [N+]1(=NC(=NC2=C1C=CC=C2)N)[O-] | C7H6N4O
